### ISSUE TITLE
Inconsistent substitution behavior of `cases`

### ISSUE THREAD

**Issue by Kha** [leanprover/lean4#1413]
As noticed by @larsk21
```
example (h : n = 0) : n = 0 := by cases n  -- replaces all occurrences
example (h : n = 0) : n = 0 := by cases h' : n  -- replaces occurrence in target
example (h : id n = 0) : id n = 0 := by cases id n -- replaces occurrence in target
example (h : id n = 0) : id n = 0 := by cases h' : id n -- replaces occurrence in target
```

**Comment by leodemoura** [comment]
The last three examples use `generalize`, and it currently only performs the generalization on the `target` type. We can change this, and it would be a solid solution for the second example, but not perfect for the last two since the generalization depends on `kabstract`.

Not sure whether we should do the change now or wait for the Mathlib port since it will impact it.

**Comment by digama0** [comment]
The mathlib port is going to want the same behavior as lean 3, which FTR is:
```lean
example {n} (h : n = 0) : n = 0 := by cases n  -- replaces all occurrences
example {n} (h : n = 0) : n = 0 := by cases h' : n  -- replaces occurrence in target
example {n} (h : id n = 0) : id n = 0 := by cases id n -- replaces all occurrences
example {n} (h : id n = 0) : id n = 0 := by cases h' : id n -- replaces occurrence in target
```
So if you are considering among all the equally confusing choices, I would suggest this one.
